US05807823
Leu+Nle 5.8(2+4);
Val, 1.1(1); Ile, 0.9(1); Leu, 8.0(8); Lys, 4.0(4).

reactant | Val | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | Ile | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | Leu | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | Lys | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
product | Leu Nle | N[C@@H](CC(C)C)C(=O)O.N[C@@H](CCCC)C(=O)O | 2C6H13NO2
